US07034039B2
Tert-butyl{6-[4-(acetylamino)-1,3-thiazol-2-yl]-2-isobutyl-1-oxo-4-phenyl-1,2-dihydro-3-isoquinolinyl}methylcarbamate (0.14 g, 0.25 mmol) was dissolved in a solution of 4N hydrogen chloride in ethyl acetate (5 ml). The solution was stirred at room temperature for 1 h. The reaction was concentrated under reduced pressure, and the residue was crystallized from ethyl acetate to give N-{2-[3-(aminomethyl)-2-isobutyl-1-oxo-4-phenyl-1,2-dihydro-6-isoquinolinyl]-1,3-thiazol-4-yl}acetamide hydrochloride (0.11 g, 91.7%) as crystals.

reactant | Tert-butyl{6-[4-(acetylamino)-1,3-thiazol-2-yl]-2-isobutyl-1-oxo-4-phenyl-1,2-dihydro-3-isoquinolinyl}methylcarbamate | 0.25 mmol, 0.14 g | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)C=1SC=C(N1)NC(C)=O)=O)CC(C)C)=O | C30H34N4O4S
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | N-{2-[3-(aminomethyl)-2-isobutyl-1-oxo-4-phenyl-1,2-dihydro-6-isoquinolinyl]-1,3-thiazol-4-yl}acetamide hydrochloride | 0.11 g, 91.7% | Cl.NCC=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)C=1SC=C(N1)NC(C)=O)=O)CC(C)C | InChI=1S/C25H26N4O2S.ClH/c1-15(2)13-29-21(12-26)23(17-7-5-4-6-8-17)20-11-18(9-10-19(20)25(29)31)24-28-22(14-32-24)27-16(3)30;/h4-11,14-15H,12-13,26H2,1-3H3,(H,27,30);1H
